US08957070B2
Ethyl 4-methyl-2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-5-carboxylate
A mixture of 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide (0.50 g), ethyl 2-chloro-3-oxobutyrate (0.40 mL), ethanol (4 mL) and N,N-dimethylacetamide (4 mL) was stirred at 90° C. overnight. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography and the title compound (0.47 g, yield 73%) was obtained as pale-yellow crystals from a fraction eluted with tetrahydrofuran-hexane (2:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 226-228° C.

reactant | 7-[(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 0.50 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C(N)=S | C13H11N3O2S3
reactant | ethyl 2-chloro-3-oxobutyrate | 0.40 mL | ClC(C(=O)OCC)C(C)=O | C6H9ClO3
reactant | ethanol | 4 mL | C(C)O | C2H6O
reactant | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
product | Ethyl 4-methyl-2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazole-5-carboxylate | 0.47 g, yield 73% | CC=1N=C(SC1C(=O)OCC)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C19H17N3O4S3
